US06906104B2
The trifluoroacetate salt of (2S,3R,4S)-2-Amino-6-methylsulfanyl-1-phenyl-hexane-3,4-diol (0.1 mmol) was reacted with 5-bromo-N,N-dipropyl-isophthalamic acid as described in method A (addition of an extra equivalent of DIEA to neutralize the amine salt) to give 2-({3-bromo-5-[(dipropylamino)carbonyl]benzoyl}amino)-1,2,5-trideoxy-6-S-methyl-1-phenyl-6-thio-D-xylo-hexitol. MS (ESI+) for C27H37BrN2O4S m/z 567 (M+H)+.

reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | (2S,3R,4S)-2-Amino-6-methylsulfanyl-1-phenyl-hexane-3,4-diol | 0.1 mmol | N[C@@H](CC1=CC=CC=C1)[C@H]([C@H](CCSC)O)O | C13H21NO2S
reactant | 5-bromo-N,N-dipropyl-isophthalamic acid | BrC=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)CCC | C14H18BrNO3
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-({3-bromo-5-[(dipropylamino)carbonyl]benzoyl}amino)-1,2,5-trideoxy-6-S-methyl-1-phenyl-6-thio-D-xylo-hexitol | BrC=1C=C(C(=O)N[C@@H](CC2=CC=CC=C2)[C@@H](O)[C@H](O)CCSC)C=C(C1)C(=O)N(CCC)CCC | C27H37BrN2O4S
